US04968790
2,5-Anhydro-3,4-bis-O-(phenylmethyl)-D-glucitol
A solution of 847 mg of 2,5-anhydro-3,4-bis-O-(phenylmethyl)-1,6-bis-O-(triphenylmethyl)-D-glucitol in 5 ml of acetone was treated with 16 ml of 80% aqueous acetic acid with stirring for 1 hour at 80° C., for 20 hours at room temperature and then evaporated in vacuo. The residue was taken up in ether, washed with brine, dried and evaporated to an oil. Chromatography of the oil, eluting with ether, gave 260 mg of the desired compound.

reactant | 2,5-anhydro-3,4-bis-O-(phenylmethyl)-1,6-bis-O-(triphenylmethyl)-D-glucitol | 847 mg | C1(=CC=CC=C1)CO[C@@H]1[C@H](COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)O[C@@H]([C@H]1OCC1=CC=CC=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C58H52O5
reactant | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2,5-Anhydro-3,4-bis-O-(phenylmethyl)-D-glucitol | 260 mg | C1(=CC=CC=C1)CO[C@@H]1[C@H](CO)O[C@@H]([C@H]1OCC1=CC=CC=C1)CO | C20H24O5
